US05455273
trans-N-tert. Butoxycarbonyl-N-methyl-4-(4-methanesulphonyloxymethylphenyl)cyclohexylamine
15.4 g of trans-N-tert.butoxycarbonyl-N-methyl-4-(4-hydroxymethylphenyl)cyclohexylamine in 120 ml of methylene chloride are mixed at O° C. with 4.5 ml of methanesulphonic acid chloride and then 8.1 ml of triethylamine in 20 ml of methylene chloride are slowly added dropwise. After stirring overnight, water is added, the organic phase is washed with water, dried and concentrated by evaporation. After recrystallisation from diisopropylether at low temperature, 12.1 g of the title compound are obtained, melting point 138°-139° C.

reactant | trans-N-tert.butoxycarbonyl-N-methyl-4-(4-hydroxymethylphenyl)cyclohexylamine | 15.4 g | C(C)(C)(C)OC(=O)N(C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CO | C19H29NO3
reactant | methanesulphonic acid chloride | 4.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 8.1 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | trans-N-tert. Butoxycarbonyl-N-methyl-4-(4-methanesulphonyloxymethylphenyl)cyclohexylamine | C(C)(C)(C)OC(=O)N(C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)COS(=O)(=O)C | C20H31NO5S
